### PR TITLE
feat: BitVec.msb_sdiv

### PR DESCRIPTION
**Pull request by bollu**
This PR provides a compact formula for the MSB of the sdiv. Most of the work in the PR involves handling the corner cases of division overflowing (e.g. `intMin / -1 = intMin`)

### CODE REVIEW

File: src/Init/Data/BitVec/Bitblast.lean [hunk 1]
```diff
@@ -1715,6 +1728,504 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+/-- `x.abs.toInt` equals `x.toInt.natAbs` when `x ≠ intMin w`. -/
+@[simp]
+theorem toInt_abs_eq_natAbs_toInt_of_ne_intMin {x : BitVec w}
+  (hx : x ≠ intMin w) :x.abs.toInt = x.toInt.natAbs := by
+  rw [BitVec.abs]
+  by_cases hmsb : x.msb
+  · simp [hmsb, toInt_neg_eq_ite, hx]
+    have : x.toInt < 0 := by exact toInt_neg_of_msb_true hmsb
+    rw [Int.natAbs_eq_neg_of_lt this]
+  · simp at hmsb
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean:1798]: nonterminal

File: src/Init/Data/BitVec/Bitblast.lean [hunk 2]
```diff
@@ -1715,6 +1728,504 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+  subst hn
+  simp
+
+/-- `x.abs.toInt` equals `x.toInt.natAbs` when `x ≠ intMin w`. -/
+@[simp]
+theorem toInt_abs_eq_natAbs_toInt_of_ne_intMin {x : BitVec w}
+  (hx : x ≠ intMin w) :x.abs.toInt = x.toInt.natAbs := by
+  rw [BitVec.abs]
+  by_cases hmsb : x.msb
+  · simp [hmsb, toInt_neg_eq_ite, hx]
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean:1795]: nonterminal

File: src/Init/Data/BitVec/Bitblast.lean [hunk 3]
```diff
@@ -1715,6 +1728,504 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+Note that this is true for `tdiv` as it has round-to-zero semantics.
+-/
+theorem Int.tdiv_ofNat_eq_zero_of_natAbs_lt {a : Int} {b : Nat}
+    (hab : a.natAbs < b) : a.tdiv b = 0 := by
+  by_cases h : a < 0
+  · obtain ⟨n, hn⟩  := Int.eq_negSucc_of_lt_zero h
+    subst hn
+    unfold Int.tdiv
+    simp
+    simp at hab
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean:1833]: nonterminal

File: src/Init/Data/BitVec/Bitblast.lean [hunk 4]
```diff
@@ -1715,6 +1728,504 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+    norm_cast
+    apply Nat.div_eq_zero_of_lt (by omega)
+  · simp only [Int.not_lt] at h;
+    obtain ⟨n, hn⟩  := Int.eq_ofNat_of_zero_le h
+    subst hn
+    unfold Int.tdiv
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean:1839]: same as above

File: src/Init/Data/BitVec/Bitblast.lean [hunk 5]
```diff
@@ -1715,6 +1728,504 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+(when the denominator is valid, i.e. nonzero).
+-/
+theorem Int.tdiv_eq_zero_iff_natAbs_lt_of_ne_zero {a : Int} {b : Nat} (hb : b ≠ 0) :
+    (a.natAbs < b) ↔ a.tdiv b = 0 := by
+  by_cases h : a < 0
+  · obtain ⟨n, hn⟩  := Int.eq_negSucc_of_lt_zero h
+    subst hn
+    unfold Int.tdiv
+    simp
+    norm_cast
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean:1857]: nonterminal

File: src/Init/Data/BitVec/Bitblast.lean [hunk 6]
```diff
@@ -1715,6 +1728,504 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+Since `Int.tdiv` performs round-to-zero semantics,
+the result is zero iff the absolute value of the numerator is less than that of the denominator
+(when the denominator is valid, i.e. nonzero).
+-/
+theorem Int.tdiv_eq_zero_iff_natAbs_lt_of_ne_zero {a : Int} {b : Nat} (hb : b ≠ 0) :
+    (a.natAbs < b) ↔ a.tdiv b = 0 := by
+  by_cases h : a < 0
+  · obtain ⟨n, hn⟩  := Int.eq_negSucc_of_lt_zero h
+    subst hn
+    unfold Int.tdiv
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean:1855]: avoid unfolding

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase b677702b02a3127e5f0d1a25b40fe55ed7b623f5 --onto a1989c2387f90c4cde9f07de6c7cc8f7525cab6f`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-04-30 14:20:45)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase b677702b02a3127e5f0d1a25b40fe55ed7b623f5 --onto 2b4f372317f214e92988a79fc765586fbfb64e97`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-12 21:09:59)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase b677702b02a3127e5f0d1a25b40fe55ed7b623f5 --onto 9b9dd8546a123d746580649b239f26c26d370d20`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-09 07:34:34)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase b677702b02a3127e5f0d1a25b40fe55ed7b623f5 --onto faffe863343211d03d07d4ef19d90a2aa9d6fc8c`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-13 19:50:00)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase b677702b02a3127e5f0d1a25b40fe55ed7b623f5 --onto 957b904ef9fd11ed9cb49f12fcc9d7b989c01900`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-16 10:02:00)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase b677702b02a3127e5f0d1a25b40fe55ed7b623f5 --onto fdf6d2ea3bdbebb736aa5d05d00b27a5abaa8fb8`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-17 15:24:28)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase b677702b02a3127e5f0d1a25b40fe55ed7b623f5 --onto e83b7681407043c75f5167c2e4da13e25078a0c0`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-18 14:35:42)

File: src/Init/Data/BitVec/Bitblast.lean [hunk 7]
```diff
@@ -1611,6 +1611,8 @@ theorem intMin_udiv_eq_intMin_iff (x : BitVec w) :
     subst h
     simp
 
+
+
 theorem intMin_udiv_ne_zero_of_ne_zero {b : BitVec w} (hb : b.msb = false) (hb0 : b ≠ 0#w) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1616]:
```suggestion

theorem intMin_udiv_ne_zero_of_ne_zero {b : BitVec w} (hb : b.msb = false) (hb0 : b ≠ 0#w) :
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 8]
```diff
@@ -1715,6 +1717,117 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
   · rw [← toInt_bmod_cancel]
     rw [BitVec.toInt_sdiv_of_ne_or_ne _ _ (by simpa only [Decidable.not_and_iff_not_or_not] using h)]
 
+@[simp]
+theorem BitVec.sdiv_zero_eq {x : BitVec w} : x.sdiv (0#w) = 0#w := by
+  apply eq_of_toInt_eq; simp
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1722]:
```suggestion
theorem sdiv_zero {x : BitVec w} : x.sdiv 0#w = 0#w := by
  apply eq_of_toInt_eq; simp
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 9]
```diff
@@ -1715,6 +1717,117 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+
+
+/-- Unsigned division is zero if and only if either the denominator is zero,
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1725]:
```suggestion

/-- Unsigned division is zero if and only if either the denominator is zero,
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 10]
```diff
@@ -1715,6 +1715,120 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+    rcases w with _ | w; decide +revert
+    have : (-x / y).msb = true := by simp [h, msb_intMin]; 
+    rw [msb_udiv] at this
+    simp only [bool_to_prop] at this
+    obtain ⟨hx₂, hy⟩ := this
+    simp at hy
+    subst hy
+    simp
+    simp at h
+    simp [h]
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean:1758]: nonterminal

File: src/Init/Data/BitVec/Bitblast.lean [hunk 11]
```diff
@@ -1715,6 +1715,120 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+        · simp only [hxy₁, neg_zero, msb_zero, false_eq_decide_iff, BitVec.not_le]
+          simp only [udiv_eq_zero_iff_eq_zero_or_lt] at hxy₁
+          simp only [hy₁, _root_.false_or] at hxy₁
+          bv_omega
+        · simp only [udiv_eq_zero_iff_eq_zero_or_lt, _root_.not_or, BitVec.not_lt] at hxy₁
+          simp only [hy₁, not_false_eq_true, _root_.true_and] at hxy₁
+          simp only [hxy₁, decide_true]
+          simp only [msb_neg, bne_iff_ne, ne_eq]
+          simp only [bool_to_prop]
+          simp only [bne_iff_ne, ne_eq, udiv_eq_zero_iff_eq_zero_or_lt, hy₁, _root_.false_or,
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean:1812]: can't these be grouped

File: src/Init/Data/BitVec/Bitblast.lean (hunk 10 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: Fixed.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 11 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: I grouped as much as possible. Sadly still a bit messy.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 12]
```diff
@@ -1715,6 +1715,117 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+    simp only [udiv_one, zero_lt_succ, neg_eq_intMin] at h
+    simp [h]
+  · rintro ⟨hx, hy⟩
+    subst hx
+    subst hy
+    simp
+
+theorem msb_sdiv_eq_decide {x y : BitVec w} :
+    (x.sdiv y).msb = ((0 < w) &&
+      -- x +ve, y +ve: never negative..
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean:1765]:
```suggestion
      -- x +ve, y +ve: never negative..
```
maybe it's a me problem but I don't understand what `ve` is?

**Review by luisacicolini — APPROVED** [review]

File: src/Init/Data/BitVec/Bitblast.lean (hunk 12 above)
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean:1765]:
```suggestion
      -- x +ve, y +ve: never negative..
```
might be a me problem, but I don't understand what `ve` is

Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean:1765]: Aha, it's meant to say "positive" and "negative".

Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean:1765]: pos/neg (nonpos/nonneg when zero is included) seems to be consistent with the standard naming, no?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 13]
```diff
@@ -1715,6 +1715,117 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+     x / y ≠ 0#w ↔ (y ≠ 0#w ∧ y ≤ x) := by
+  simp only [ne_eq, udiv_eq_zero_iff_eq_zero_or_lt, _root_.not_or, BitVec.not_lt]
+
+private theorem neg_udiv_eq_intmin_iff_eq_intmin_eq_one_of_msb_eq_true
+    {x y : BitVec w} (hx : x.msb = true) (hy : y.msb = false) :
+    -x / y = intMin w ↔ (x = intMin w ∧ y = 1#w) := by
+  constructor
+  · intros h
+    rcases w with _ | w; decide +revert
+    have : (-x / y).msb = true := by simp [h, msb_intMin];
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean:1750]:
```suggestion
    have : (-x / y).msb = true := by simp [h, msb_intMin]
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 14]
```diff
@@ -1715,6 +1715,117 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+    rw [msb_udiv] at this
+    simp only [bool_to_prop] at this
+    obtain ⟨hx₂, hy⟩ := this
+    simp only [beq_iff_eq] at hy
+    subst hy
+    simp only [udiv_one, zero_lt_succ, neg_eq_intMin] at h
+    simp [h]
+  · rintro ⟨hx, hy⟩
+    subst hx
+    subst hy
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean:1760]:
```suggestion
    subst hx hy
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 15]
```diff
@@ -1715,6 +1715,117 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+      Bool.true_and, Bool.false_or, Bool.and_false, Bool.or_false]
+    by_cases hx₁ : x = 0#w
+    · simp [hx₁, neg_zero, zero_udiv, msb_zero, le_zero_iff, Bool.and_not_self]
+    · by_cases hy₁ : y = 0#w
+      · simp [hy₁, udiv_zero, neg_zero, msb_zero, decide_true, Bool.not_true, Bool.and_false]
+      · simp only [hy₁, decide_false, Bool.not_false, Bool.and_true]
+        by_cases hxy₁ : (- x / y) = 0#w
+        · simp only [hxy₁, neg_zero, msb_zero, false_eq_decide_iff, BitVec.not_le]
+          simp only [udiv_eq_zero_iff_eq_zero_or_lt] at hxy₁
+          simp only [hy₁, _root_.false_or] at hxy₁
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean:1803]:
```suggestion
          simp only [udiv_eq_zero_iff_eq_zero_or_lt, hy₁, _root_.false_or] at hxy₁
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 16]
```diff
@@ -1715,6 +1715,117 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+    simp only [hxmsb, hymsb, Bool.not_true, Bool.and_true, ne_zero_of_msb_true, decide_false,
+    Bool.not_false, Bool.false_and, Bool.and_false, Bool.or_self, Bool.and_self, Bool.true_and,
+    Bool.false_or]
+    rw [msb_udiv, msb_neg]
+    simp only [hxmsb, bne_true, Bool.not_and]
+    simp only [bool_to_prop]
+    simp only [not_eq_eq_eq_not, Bool.not_true, bne_eq_false_iff_eq, beq_iff_eq]
+    have hxne0 : ¬ (x = 0#w) := by
+      intros h
+      simp [h] at hxmsb
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean:1826]:
```suggestion
    have hxne0 := BitVec.ne_zero_of_msb_true (x := x) hxmsb
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 17]
```diff
@@ -1715,6 +1715,117 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+      Bool.and_self, ne_zero_of_msb_true, decide_false, Bool.and_true, Bool.true_and, Bool.not_true,
+      Bool.false_and, Bool.or_false, bool_to_prop]
+    have : x / -y ≠ intMin w := by
+      intros h
+      have : (x  / -y).msb = (intMin w).msb := by simp only [h]
+      simp only [msb_intMin, show 0 < w by omega, decide_true] at this
+      rw [msb_udiv] at this
+      simp only [and_eq_true, beq_iff_eq] at this
+      obtain ⟨hcontra, _⟩ := this
+      simp only [hcontra, true_eq_false] at hxmsb
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean:1788]: why not extracting another lemma like you did for `neg_udiv_eq_intmin_iff_eq_intmin_eq_one_of_msb_eq_true`? Also, I wonder if it would be possible to have a single, more general version of the lemma.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 18]
```diff
@@ -1715,6 +1715,117 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+    simp
+
+theorem msb_sdiv_eq_decide {x y : BitVec w} :
+    (x.sdiv y).msb = ((0 < w) &&
+      -- x +ve, y +ve: never negative..
+      (!x.msb && y.msb && (-y ≤ x ∧ y ≠ 0#w)) || -- x +ve, y -ve: -ve when result nonzero.
+      (x.msb && !y.msb && (y ≤ -x && y ≠ 0#w)) || -- x -ve, y +ve: -ve when result nonzero.
+      (x.msb && y.msb && (x = intMin w && y = -1#w))) -- x -ve, y -ve:  `intMin / -1 = intMin` -ve.
+     := by
+  by_cases hw : w = 0; subst hw; decide +revert
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean:1770]: woldn't `rcases w with _|w` be preferable in this case?

**Comment by tobiasgrosser** [comment]
@bollu, I can do another pass after @luisacicolini's comments have been addressed. Please ping me.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 18 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: @luisacicolini Not for me, since it makes the proof state way harder to reason with due to the bunch of `+1`s.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 17 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: I don't see a more general version, but I'm happy to extract it out if you do. Fundamentally, the division operates asymmetrically with respect to numerator and denominator, no?

Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: Actually, I'm not sure what to extract out: The previous lemma says *when* it can equal `intMin`, but in this case, we're trying to show that `x / y` can *never* yield `intMin`.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 19]
```diff
@@ -1715,6 +1715,111 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+    simp only [toNat_udiv, toNat_ofNat, zero_mod, Nat.div_eq_zero_iff]
+    simp only [lt_def] at h
+    rcases h with h | h <;> simp [h]
+
+@[simp]
+theorem udiv_ne_zero_iff_ne_zero_and_le {x y : BitVec w} :
+     x / y ≠ 0#w ↔ (y ≠ 0#w ∧ y ≤ x) := by
+  simp only [ne_eq, udiv_eq_zero_iff_eq_zero_or_lt, _root_.not_or, BitVec.not_lt]
+
+private theorem neg_udiv_eq_intmin_iff_eq_intmin_eq_one_of_msb_eq_true
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]: Why is this private?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 20]
```diff
@@ -1715,6 +1715,111 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
   · rw [← toInt_bmod_cancel]
     rw [BitVec.toInt_sdiv_of_ne_or_ne _ _ (by simpa only [Decidable.not_and_iff_not_or_not] using h)]
 
+/-- Unsigned division is zero if and only if either the denominator is zero,
+or the numerator is unsigned less than the denominator -/
+@[simp]
+theorem udiv_eq_zero_iff_eq_zero_or_lt {x y : BitVec w} :
+     x / y = 0#w ↔ (y = 0#w ∨ x < y) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]: The LHS does not seems trictly simpler than the RHS. Are you sure you want to mark this `simp`?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 21]
```diff
@@ -1715,6 +1715,111 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+  · intros h
+    apply eq_of_toNat_eq
+    simp only [toNat_udiv, toNat_ofNat, zero_mod, Nat.div_eq_zero_iff]
+    simp only [lt_def] at h
+    rcases h with h | h <;> simp [h]
+
+@[simp]
+theorem udiv_ne_zero_iff_ne_zero_and_le {x y : BitVec w} :
+     x / y ≠ 0#w ↔ (y ≠ 0#w ∧ y ≤ x) := by
+  simp only [ne_eq, udiv_eq_zero_iff_eq_zero_or_lt, _root_.not_or, BitVec.not_lt]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]: The LHS does not seems trictly simpler than the RHS. Are you sure you want to mark this `simp`?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 22]
```diff
@@ -1715,6 +1715,111 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+    simp only [toNat_udiv, toNat_ofNat, zero_mod, Nat.div_eq_zero_iff] at h
+    rcases h with h | h
+    · left
+      apply eq_of_toNat_eq
+      simp [h]
+    · right
+      simp [lt_def, h]
+  · intros h
+    apply eq_of_toNat_eq
+    simp only [toNat_udiv, toNat_ofNat, zero_mod, Nat.div_eq_zero_iff]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]: Can the `simp` above be sunk and merged with the final simp?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 23]
```diff
@@ -1715,6 +1715,111 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+      -- (1) x nonneg, y nonneg: never negative.
+      (!x.msb && y.msb && (-y ≤ x ∧ y ≠ 0#w)) || -- (2) x nonneg, y neg: neg when result nonzero.
+      (x.msb && !y.msb && (y ≤ -x && y ≠ 0#w)) || -- (3) x neg, y nonneg: neg when result nonzero.
+      (x.msb && y.msb && (x = intMin w && y = -1#w))) -- (4) x nonneg, y nonneg: neg when `intMin / -1 = intMin`
+     := by
+  by_cases hw : w = 0; subst hw; decide +revert
+  simp only [show 0 < w by omega, decide_true, ne_eq, decide_and, decide_not, Bool.true_and,
+    sdiv_eq, udiv_eq]
+  rcases hxmsb : x.msb <;> rcases hymsb : y.msb
+  · -- x:false, y:false
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]: What does it mean for x to be true and y to be false? I don't get the comment.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 24]
```diff
@@ -1715,6 +1715,111 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+    simp only [udiv_one, zero_lt_succ, neg_eq_intMin] at h
+    simp [h]
+  · rintro ⟨hx, hy⟩
+    subst hx hy
+    simp
+
+theorem msb_sdiv_eq_decide {x y : BitVec w} :
+    (x.sdiv y).msb = ((0 < w) &&
+      -- (1) x nonneg, y nonneg: never negative.
+      (!x.msb && y.msb && (-y ≤ x ∧ y ≠ 0#w)) || -- (2) x nonneg, y neg: neg when result nonzero.
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]: Does `y.msb` not imply `y \ne 0`, also why do you use `∧` instead of `&&` as in the other cases?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 25]
```diff
@@ -1715,6 +1715,111 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+      (x.msb && !y.msb && (y ≤ -x && y ≠ 0#w)) || -- (3) x neg, y nonneg: neg when result nonzero.
+      (x.msb && y.msb && (x = intMin w && y = -1#w))) -- (4) x nonneg, y nonneg: neg when `intMin / -1 = intMin`
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
      (x = intMin w && y = -1#w)) -- (4) x nonneg, y nonneg: neg when `intMin / -1 = intMin`
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 26]
```diff
@@ -1715,6 +1715,111 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+    simp [h]
+  · rintro ⟨hx, hy⟩
+    subst hx hy
+    simp
+
+theorem msb_sdiv_eq_decide {x y : BitVec w} :
+    (x.sdiv y).msb = ((0 < w) &&
+      -- (1) x nonneg, y nonneg: never negative.
+      (!x.msb && y.msb && (-y ≤ x ∧ y ≠ 0#w)) || -- (2) x nonneg, y neg: neg when result nonzero.
+      (x.msb && !y.msb && (y ≤ -x && y ≠ 0#w)) || -- (3) x neg, y nonneg: neg when result nonzero.
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]: I am not 100% sure,  but would `x.msb != y.msb && ...` also work in this case. Not saying we should choose this form, but just wanted to point this out.

**Review by tobiasgrosser — COMMENTED** [review]
This looks already pretty good. We want to have as little statements as possible in `BitBlast.lean`. Can you check if some of the smaller theorems can be moved to `Lemmas`?

File: src/Init/Data/BitVec/Bitblast.lean (hunk 22 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: I preferred this, since it makes the final simp `obvious` as to what's going on. Otherwise, I'd write separate proof for the final `rcases`. Let me know what you prefer.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 19 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: It's a very technical lemma, and I would hope that others don't need to use it! I can mark it `protected` instead, if you like. I shall close the comment, and feel invited to unresolve if you feel differently.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 20 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: I feel it's a sensible `simp` theorem, since it simplifies the division being zero into something that's more exploitable. I shall close the comment, and feel invited to unresolve if you feel differently.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 21 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: I feel it's a sensible `simp` theorem, since it simplifies the division being non-zero into something that's more exploitable. I shall close the comment, and feel invited to unresolve if you feel differently.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 25 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: This is not equivalent at width zero, when `x.msb = false` but `x = intMin 0`, and will therefore not accept this change.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 23 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: Fixed, I now write `neg` and `nonneg`. I was thinking of `x.msb` and `y.msb`.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 24 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: Good catch! I was thinking about it in terms of the "logical" part, but I should switch it all to `decide`.

Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: Resolved.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 26 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: I don't think that's possible: the comparison has a different shape when `x` is positive and y is negative, versus when `x` is negative and y is positive. (the comparison of their magnitudes is `-y ≤ x` versus `y ≤ -x`).

File: src/Init/Data/BitVec/Bitblast.lean [hunk 27]
```diff
@@ -1715,6 +1715,126 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+  · -- x:nonneg, y:nonneg
+    simp [hxmsb, hymsb, msb_udiv_eq_false_of, Bool.not_false, Bool.and_false, Bool.false_and,
+      Bool.and_true, Bool.or_self, Bool.and_self]
+  · -- x:nonneg, y:neg
+    simp only [hxmsb, hymsb, msb_neg, msb_udiv_eq_false_of, bne_false, Bool.not_false,
+      Bool.and_self, ne_zero_of_msb_true, decide_false, Bool.and_true, Bool.true_and, Bool.not_true,
+      Bool.false_and, Bool.or_false, bool_to_prop]
+    have : x / -y ≠ intMin w := by
+      intros h
+      have : (x  / -y).msb = (intMin w).msb := by simp only [h]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
      have : (x / -y).msb = (intMin w).msb := by simp only [h]
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 28]
```diff
@@ -1715,6 +1715,126 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+(4) x neg, y neg: neg when `x = intMin, `y = -1`, since `intMin / -1 = intMin`.
+
+The proof strategy is to perform a case analysis on the sign of `x` and `y`,
+followed by unfolding the `sdiv` into `udiv`.
+-/
+theorem msb_sdiv_eq_decide {x y : BitVec w} :
+    (x.sdiv y).msb = (decide (0 < w) &&
+      (!x.msb && y.msb && decide (-y ≤ x)) ||
+      (x.msb && !y.msb && decide (y ≤ -x) && decide (y ≠ 0#w)) ||
+      (x.msb && y.msb && decide (x = intMin w) && decide (y = -1#w)))
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1753]: In the lat case, you use `intMin` and `-1`, which reference the same idea. Should we use `intMin` on both sides for consistency? Also, given that intMin specifies a concrete value, is the `x.msb && y.msb` really needed?

Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean:1753]: I don't see how `intMin` and `-1` are the same: `intMin w` as an integer `-2^w`, while `-1#w` as an integer is`-1`?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 29]
```diff
@@ -3994,6 +3994,30 @@ theorem toInt_udiv_of_msb {x : BitVec w} (h : x.msb = false) (y : BitVec w) :
...
+    · left
+      apply eq_of_toNat_eq
+      simp [h]
+    · right
+      simp [lt_def, h]
+  · intros h
+    apply eq_of_toNat_eq
+    simp only [toNat_udiv, toNat_ofNat, Nat.zero_mod, Nat.div_eq_zero_iff]
+    simp only [lt_def] at h
+    rcases h with h | h <;> simp [h]
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    simp [toNat_eq, toNat_udiv, toNat_ofNat, Nat.zero_mod, Nat.div_eq_zero_iff, BitVec.lt_def]
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 30]
```diff
@@ -1715,6 +1715,98 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+private theorem neg_udiv_eq_intmin_iff_eq_intmin_eq_one_of_msb_eq_true
+    {x y : BitVec w} (hx : x.msb = true) (hy : y.msb = false) :
+    -x / y = intMin w ↔ (x = intMin w ∧ y = 1#w) := by
+  constructor
+  · intros h
+    rcases w with _ | w; decide +revert
+    have : (-x / y).msb = true := by simp [h, msb_intMin]
+    rw [msb_udiv] at this
+    simp only [bool_to_prop] at this
+    obtain ⟨hx₂, hy⟩ := this
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
    obtain ⟨hx, hy⟩ := this
```
given that there's no hx1

File: src/Init/Data/BitVec/Bitblast.lean [hunk 31]
```diff
@@ -1715,6 +1715,98 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+  We check that `y ≠ 0` and `|x| ≥ |y|`.
+(4) x neg, y neg: neg when `x = intMin, `y = -1`, since `intMin / -1 = intMin`.
+
+The proof strategy is to perform a case analysis on the sign of `x` and `y`,
+followed by unfolding the `sdiv` into `udiv`.
+-/
+theorem msb_sdiv_eq_decide {x y : BitVec w} :
+    (x.sdiv y).msb = (decide (0 < w) &&
+      (!x.msb && y.msb && decide (-y ≤ x)) ||
+      (x.msb && !y.msb && decide (y ≤ -x) && decide (y ≠ 0#w)) ||
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
      (x.msb && !y.msb && decide (y ≤ -x) && !decide (y = 0#w)) ||
```
normal form

File: src/Init/Data/BitVec/Bitblast.lean [hunk 32]
```diff
@@ -1715,6 +1715,98 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+      (x.msb && y.msb && decide (x = intMin w) && decide (y = -1#w)))
+     := by
+  by_cases hw : w = 0; subst hw; decide +revert
+  simp only [show 0 < w by omega, decide_true, ne_eq, decide_and, decide_not, Bool.true_and,
+    sdiv_eq, udiv_eq]
+  rcases hxmsb : x.msb <;> rcases hymsb : y.msb
+  · -- x:nonneg, y:nonneg
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]: I don't think these comments are necessary, given that (1) you explained the strategy in the comment and (2) in other theorems with similar strategies there's no such comments. Also, most of them use `cases` or `by_cases`, might be worth switching to that for consistency?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 33]
```diff
@@ -1715,6 +1715,98 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+The proof strategy is to perform a case analysis on the sign of `x` and `y`,
+followed by unfolding the `sdiv` into `udiv`.
+-/
+theorem msb_sdiv_eq_decide {x y : BitVec w} :
+    (x.sdiv y).msb = (decide (0 < w) &&
+      (!x.msb && y.msb && decide (-y ≤ x)) ||
+      (x.msb && !y.msb && decide (y ≤ -x) && decide (y ≠ 0#w)) ||
+      (x.msb && y.msb && decide (x = intMin w) && decide (y = -1#w)))
+     := by
+  by_cases hw : w = 0; subst hw; decide +revert
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]: why not `rcases w with _|w`? It would also simplify all the `show 0 < w by omega` in the proof

File: src/Init/Data/BitVec/Bitblast.lean [hunk 34]
```diff
@@ -1715,6 +1715,98 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+  ·  -- x:neg, y:neg
+    simp only [hxmsb, hymsb, Bool.not_true, Bool.and_true, ne_zero_of_msb_true, decide_false,
+    Bool.not_false, Bool.false_and, Bool.and_false, Bool.or_self, Bool.and_self, Bool.true_and,
+    Bool.false_or]
+    rw [msb_udiv, msb_neg]
+    simp only [hxmsb, bne_true, Bool.not_and]
+    simp only [bool_to_prop]
+    simp only [not_eq_eq_eq_not, Bool.not_true, bne_eq_false_iff_eq, beq_iff_eq]
+    have hxne0 := BitVec.ne_zero_of_msb_true (x := x) hxmsb
+    simp [hxne0, neg_eq_iff_eq_neg]
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean:1808]:
```suggestion
    simp [BitVec.ne_zero_of_msb_true (x := x) hxmsb, neg_eq_iff_eq_neg]
```

Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
    simp [BitVec.ne_zero_of_msb_true (x := x) hxmsb, neg_eq_iff_eq_neg]
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 35]
```diff
@@ -1715,6 +1715,98 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+          simp only [bool_to_prop,
+            bne_iff_ne, ne_eq, hx₁, not_false_eq_true, _root_.true_and, decide_not, hxmsb,
+            bne_true, Bool.not_not, decide_eq_true_eq, beq_iff_eq]
+          apply neg_udiv_eq_intmin_iff_eq_intmin_eq_one_of_msb_eq_true hxmsb hymsb
+  ·  -- x:neg, y:neg
+    simp only [hxmsb, hymsb, Bool.not_true, Bool.and_true, ne_zero_of_msb_true, decide_false,
+    Bool.not_false, Bool.false_and, Bool.and_false, Bool.or_self, Bool.and_self, Bool.true_and,
+    Bool.false_or]
+    rw [msb_udiv, msb_neg]
+    simp only [hxmsb, bne_true, Bool.not_and]
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
    simp only [msb_udiv, msb_neg, hxmsb, bne_true, Bool.not_and, Bool.not_true, Bool.and_true,
      Bool.false_and, Bool.and_false, hymsb, ne_zero_of_msb_true, decide_false, Bool.not_false,
      Bool.or_self, Bool.and_self, Bool.true_and, Bool.false_or]
```
just suggesting this to structure the proof as <`simp` before moving to prop> `simp [bool_to_prop]` <`simp` in prop>, feel free to ignore if you disagree

File: src/Init/Data/BitVec/Bitblast.lean [hunk 36]
```diff
@@ -1715,6 +1715,98 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+      Bool.and_true, Bool.or_self, Bool.and_self]
+  · -- x:nonneg, y:neg
+    simp only [hxmsb, hymsb, msb_neg, msb_udiv_eq_false_of, bne_false, Bool.not_false,
+      Bool.and_self, ne_zero_of_msb_true, decide_false, Bool.and_true, Bool.true_and, Bool.not_true,
+      Bool.false_and, Bool.or_false, bool_to_prop]
+    have : x / -y ≠ intMin w := by
+      intros h
+      have : (x / -y).msb = (intMin w).msb := by simp only [h]
+      simp only [msb_intMin, show 0 < w by omega, decide_true] at this
+      rw [msb_udiv] at this
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
      simp only [msb_intMin, show 0 < w by omega, decide_true, msb_udiv] at this
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 37]
```diff
@@ -1715,6 +1715,98 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+            decide_eq_true_eq, BitVec.not_le]
+          simp only [udiv_eq_zero_iff_eq_zero_or_lt, hy₁, _root_.false_or] at hxy₁
+          bv_omega
+        · simp only [udiv_eq_zero_iff_eq_zero_or_lt, _root_.not_or, BitVec.not_lt,
+            hy₁, not_false_eq_true, _root_.true_and] at hxy₁
+          simp only [hxy₁, decide_true, msb_neg, bne_iff_ne, ne_eq,
+            bool_to_prop,
+            bne_iff_ne, ne_eq, udiv_eq_zero_iff_eq_zero_or_lt, hy₁, _root_.false_or,
+            BitVec.not_lt, hxy₁, _root_.true_and, decide_not, not_eq_eq_eq_not, not_eq_not]
+          rw [msb_udiv, msb_neg]
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
          simp only [hxy₁, decide_true, msb_neg, bne_iff_ne, ne_eq,
            bool_to_prop,
            bne_iff_ne, ne_eq, udiv_eq_zero_iff_eq_zero_or_lt, hy₁, _root_.false_or,
            BitVec.not_lt, hxy₁, _root_.true_and, decide_not, not_eq_eq_eq_not, not_eq_not, 
            msb_udiv, msb_neg]
```

File: src/Init/Data/BitVec/Bitblast.lean (hunk 33 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: I've tried, and it doesn't really help much IMO. The `show 0 < w by omega` is replaced with something like `Nat.zero_lt_succ`.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 32 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: I use `rcases` since it automatically substitutes the values for `x.msb` and `y.msb`, which saves on a `subst`. I removed the comments, thanks for the suggestion!

File: src/Init/Data/BitVec/Bitblast.lean [hunk 38]
```diff
@@ -1715,6 +1715,89 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+    · simp [hxmsb, hymsb, msb_udiv_eq_false_of, Bool.not_false, Bool.and_false, Bool.false_and,
+        Bool.and_true, Bool.or_self, Bool.and_self]
+    · simp only [hxmsb, hymsb, msb_neg, msb_udiv_eq_false_of, bne_false, Bool.not_false,
+        Bool.and_self, ne_zero_of_msb_true, decide_false, Bool.and_true, Bool.true_and, Bool.not_true,
+        Bool.false_and, Bool.or_false, bool_to_prop]
+      have : x / -y ≠ intMin (w + 1) := by
+        intros h
+        have : (x / -y).msb = (intMin (w + 1)).msb := by simp only [h]
+        simp only [msb_intMin, decide_true, msb_udiv, show 0 < w + 1 by omega] at this
+        simp at this
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean]: can you group it with the simp above?

Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: Done.

**Review by luisacicolini — APPROVED** [review]
lgtm!

**Comment by tobiasgrosser** [comment]
changelog-library

File: src/Init/Data/BitVec/Bitblast.lean (hunk 19 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Bitblast.lean]: There is not a lot of precedence of using `private` in the `BitVec` library. I would probably drop this, as this theorem does not look a lot more difficult than the others that we have.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 39]
```diff
@@ -1715,6 +1715,88 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
   · rw [← toInt_bmod_cancel]
     rw [BitVec.toInt_sdiv_of_ne_or_ne _ _ (by simpa only [Decidable.not_and_iff_not_or_not] using h)]
 
+private theorem neg_udiv_eq_intmin_iff_eq_intmin_eq_one_of_msb_eq_true
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean]: Also, you want use `intMin` instead of `intmin` in the name.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 28 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Bitblast.lean:1753]: Sorry, I mixed things up. I meant `-1` equals to `allOnes` and we typically use the symbolic name (e.g., intMin).

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Bitblast.lean:1753]: Also, `x.msb && y.msb` are implied by `decide (x = intMin w) && decide (y = -1#w)`. Would it make sense for the last case to be just `decide (x = intMin w) && decide (y = -1#w))`?

**Review by tobiasgrosser — APPROVED** [review]
Thank you @bollu. Modulo the last comments, this looks good to me.

**Comment by bollu** [comment]
changelog-library

**Comment by bollu** [comment]
@tobiasgrosser all comments addressed.
